US07947834B2
A solution of 7 g of 3,4-dihydroquinoline-1(2H)-carbamic acid chloride in 180 ml of acetonitrile is introduced into a 500 ml round-bottomed flask. 9.6 g of bis(2-chloroethyl)amine hydrochloride and 14.83 g of potassium carbonate are subsequently added and the reaction mixture is stirred for 18 h. The acetonitrile is evaporated under reduced pressure and water and ethyl acetate are subsequently added. The aqueous phase is extracted with ethyl acetate and then the organic phases are combined, washed with water and dried over sodium sulfate and then the solvent is evaporated under reduced pressure. The residue is chromatographed on silica gel with a dichloromethane/methanol gradient from 1/0 to 95/5. 2.91 g of N,N-bis(2-chloroethyl)-3,4-dihydroquinoline-1(2H)-carboxamide are obtained.

reactant | 3,4-dihydroquinoline-1(2H)-carbamic acid chloride | 7 g | N1(CCCC2=CC=CC=C12)NC(=O)Cl | C10H11ClN2O
reactant | bis(2-chloroethyl)amine hydrochloride | 9.6 g | Cl.ClCCNCCCl
reactant | potassium carbonate | 14.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 180 ml | C(C)#N | C2H3N
product | N,N-bis(2-chloroethyl)-3,4-dihydroquinoline-1(2H)-carboxamide | 2.91 g | ClCCN(C(=O)N1CCCC2=CC=CC=C12)CCCl | C14H18Cl2N2O
